US08476434B2
To 2-fluoro-5-methoxy-4-methylbenzoic acid (650 mg, 3.53 mmol) was added 49% aqueous HBr (6.5 mL) and glacial acetic acid (5.5 mL). The mixture was heated overnight at 140° C., cooled to RT, diluted with ice water and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated to yield 2-fluoro-5-hydroxy-4-methylbenzoic acid. MS m/z=171 [M+1]+. Calc'd for C8H7FO3: 170.20.

reactant | 2-fluoro-5-methoxy-4-methylbenzoic acid | 3.53 mmol, 650 mg | FC1=C(C(=O)O)C=C(C(=C1)C)OC | C9H9FO3
reactant | HBr | 6.5 mL | Br | BrH
solvent | acetic acid | 5.5 mL | C(C)(=O)O | C2H4O2
product | 2-fluoro-5-hydroxy-4-methylbenzoic acid | FC1=C(C(=O)O)C=C(C(=C1)C)O | C8H7FO3
